US08217066B2
Step 4: N-[1-(4′-{4-[1-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-3-methyl-isoxazol-5-yl]-biphenyl-4-yl)-cyclopropanecarbonyl}-4-methyl-benzenesulfonamide:
Prepared according to the procedure described in Example 106, Step 4, using 1-(4′-{4-[1-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid and p-toluenesulfonamide.

reactant | 1-(4′-{4-[1-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid | C(C)(C)(C)[Si](OC(CCCC1=CC=CC=C1)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O)C)(C)C | C36H43NO4Si
reactant | p-toluenesulfonamide | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
product | N-[1-(4′-{4-[1-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-3-methyl-isoxazol-5-yl]-biphenyl-4-yl)-cyclopropanecarbonyl}-4-methyl-benzenesulfonamide | C(C)(C)(C)[Si](OC(CCCC1=CC=CC=C1)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)C)(C)C | C43H50N2O5SSi
